US06667301B2
To an ice cooled solution of 3-(4-{ethyl-[(S)-2-(4-methylsulfanylphenyl)-1-methylethyl]amino}butyl)-[1,3]oxazinan-2-one (0.33 g, 0.9 mmole) in methanol (10 mL) was added a solution of potassium peroxymonosulfate (Oxone®) (1.22 g, 1.98 mmole) in water (10 mL). The reaction mixture was stirred at room temperature for 5 hours. Then 1.5M sodium carbonate solution (10 mL) was added and the mixture was extracted with diethyl ether (20 mL). The organic phase was dried (magnesium sulfate) and concentrated. Purification of the residue by silica gel chromatography with 10% ethyl acetate in chloroform, gave 3-(4-{ethyl-[(S)-2-(4-methanesulfonylphenyl)-1-methylethyl]amino}butyl)-[1,3]oxazinan-2-one, 122, (0.17 g) as a colorless oil. Anal.: Calcd. for C20H33ClN2O4S: C, 55.48; H, 7.68; N, 6.47%; Found C, 52.32; H, 7.42; N 5.97.

reactant | 3-(4-{ethyl-[(S)-2-(4-methylsulfanylphenyl)-1-methylethyl]amino}butyl)-[1,3]oxazinan-2-one | 0.9 mmole, 0.33 g | C(C)N(CCCCN1C(OCCC1)=O)[C@H](CC1=CC=C(C=C1)SC)C | C20H32N2O2S
reactant | potassium peroxymonosulfate | 1.98 mmole, 1.22 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | sodium carbonate | 1.5M, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 3-(4-{ethyl-[(S)-2-(4-methanesulfonylphenyl)-1-methylethyl]amino}butyl)-[1,3]oxazinan-2-one | C(C)N(CCCCN1C(OCCC1)=O)[C@H](CC1=CC=C(C=C1)S(=O)(=O)C)C | C20H32N2O4S
